US07220775B2
A mixture of 2,4-dichloro-6-(1-piperidinyl)pyrimidine (80 mg, 0.34 mmol), α-methyltryptamine (59 mg, 0.34 mmol), and potassium carbonate (47 mg, 0.34 mmol) in chlorobenzene (1 mL) was heated at 150° C. in a sealed tube for 16 hours. The solvent was removed and the crude material was purified by preparative TLC, eluting with cyclohexane/ethyl acetate (4:1). 4-Chloro-N-[2-(1H-indol-3-yl)-1-methylethyl]-6-(1-piperidinyl)-2-pyrimidinamine (Rf=0.19) was obtained as a solid (64.5 mg, 51%). 1H NMR (300 MHz, CDCl3) δ 8.29 (br s, 1H), 7.68 (br d, 1H, J=7.5), 7.32 (d, 1H, J=7.8), 7.16 (t, 1H, J=7.8), 7.12 (t, 1H, J=7.8), 6.95 (d, 1H, J=2.1), 5.87 (s, 1H), 4.89 (br d, 1H, J=8.1), 4.36 (sextet, 1H, J=6.6), 3.58-3.50 (m, 4H), 3.07 (dd, 1H, J=14.4, 5.1), 2.83 (dd, 1H, J=14.1, 7.2), 1.70-1.55 (m, 6H), 1.16 (d, 3H, J=6.6).

reactant | 2,4-dichloro-6-(1-piperidinyl)pyrimidine | 0.34 mmol, 80 mg | ClC1=NC(=CC(=N1)Cl)N1CCCCC1 | C9H11Cl2N3
reactant | α-methyltryptamine | 0.34 mmol, 59 mg | CC(N)CC1=CNC2=CC=CC=C12 | C11H14N2
reactant | potassium carbonate | 0.34 mmol, 47 mg | C([O-])([O-])=O.[K+].[K+]
solvent | chlorobenzene | 1 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 4-Chloro-N-[2-(1H-indol-3-yl)-1-methylethyl]-6-(1-piperidinyl)-2-pyrimidinamine | ClC1=NC(=NC(=C1)N1CCCCC1)NC(CC1=CNC2=CC=CC=C12)C | C20H24ClN5
